Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:6].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.92724597844
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11],-3.81542891319
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])=[C:10][H:11],3.80687041155
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.03233610086
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1][C:2][O:3].[C:4]([H:5])=[C:6]([H:7])[H:8],1.70321970175
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.47583207682
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.28440044281
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],0.18155001764000006
[H:11].[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.11225928788
[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-7.618904251619999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.71097759143
[C:1]#[C:2][C:3]#[C:4][C:6][O:7][H:8].[H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8],-2.41739700945
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],-0.499274234482
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.60242560401
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[O:13][H:14].[H:1][O:2][C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.40939283125
[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:5]([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4],6.04634792877
[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]#[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3],1.98277281071
[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9]>>[C:1]([C:2]#[C:4][O:5][H:6])([H:8])[H:9].[C:3]#[C:7],4.02108222649
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.00735694657
[O:1]=[C:2][O:3][C:4]#[C:5][H:6]>>[C:4]#[C:5][H:6].[O:1]=[C:2]=[O:3],0.204434804061
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](\[H:5])(=[C:6]\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],3.8773305263
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5],4.16394307398
[H:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]1([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[H:6],4.29812810749
[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[H:12].[O:4]=[C:5]=[C:6]([H:7])[H:8],-2.90648519565
[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.39527364004
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([O:3][C:4][H:5])[C:11]([C:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13],6.3913060389
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],3.89962269693
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7][O:9][C:10]([H:11])[H:12].[H:8],4.39968929749
